data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_618229_1,[C:1](/[C:5]([C:3]([H:17])([H:18])[H:19])=[C:4](\[C:2]([H:14])([H:15])[H:16])[O:8][H:9])([O:7][N:6]([H:10])[H:11])([H:12])[H:13]>>[C:1](=[C:5]([C:3]([H:17])([H:18])[H:19])[C:4]([C:2]([H:14])([H:15])[H:16])([O:7][N:6]([H:10])[H:11])[O:8][H:9])([H:12])[H:13],40.32440499999069
MR_477447_0,[C@:1]([C:2]([H:11])([H:12])[H:13])(/[C:4]([C:3]([H:14])([H:15])[H:16])=[N:6]\[O:5][H:9])([N:7]=[O:8])[H:10]>>[C:1](\[C:2]([H:11])([H:12])[H:13])(=[C:4](/[C:3]([H:14])([H:15])[H:16])[N:6]([O:5][H:9])[N:7][O:8])[H:10],38.46575000001067
MR_569660_0,[C:1](/[C:3](=[C:2]([N:5]([H:12])[H:13])\[N:7]=[N:8]\[N:4]([H:10])[H:11])[O:6][H:9])([H:14])([H:15])[H:16]>>[C:1]([C:3]1([O:6][H:9])[C:2]([N:5]([H:12])[H:13])=[N:7][N:8]1[N:4]([H:10])[H:11])([H:14])([H:15])[H:16],31.454692500019945
MR_109146_2,[C:1]([C:2]([N:5]([H:10])[H:11])([H:7])[H:9])([N:4]([C:3]([H:12])([H:13])[H:14])[H:8])=[O:6]>>[C:1]1([N:4]([C:3]([H:12])([H:13])[H:14])[H:8])([H:7])[C:2]([N:5]([H:10])[H:11])([H:9])[O:6]1,68.83800499998131
MR_99182_0,[C:1]([C:2]([O:6][H:9])([H:11])[H:12])([O:3][O:4][H:7])([O:5][H:8])[H:10]>>[C:1]([C:2]([O:3][O:4][H:7])([H:11])[H:12])([O:5][H:8])([O:6][H:9])[H:10],69.2101125000049
MR_113945_1,[C:1]([C:2]([H:12])([H:13])[H:14])([C:6](=[C:5]([C:3]([H:15])([H:16])[H:17])[C:4]([H:18])([H:19])[H:20])[H:11])([O:7][H:10])[O:8][H:9]>>[C:1]1([C:2]([H:12])([H:13])[H:14])([O:8][H:9])[C:5]([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])[C:6]1([O:7][H:10])[H:11],62.24737249999919
MR_378020_1,[C:1](/[C:3]([C:2]([H:14])([H:15])[H:16])=[N:7]\[N:4]([H:9])[H:10])([O:6][C:5](=[O:8])[H:11])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[C@@:3]([C:2]([H:14])([H:15])[H:16])([N:7]([N:4]([H:9])[H:10])[C:5](=[O:8])[H:11])[O:6]1,71.09888749998021
MR_418628_1,[C:1]([C:3](=[O:8])[H:11])([O:6][C:2](=[C:5]([H:14])[H:15])[N:7]=[C:4]([H:12])[H:13])([H:9])[H:10]>>[C:1]([C:3]([N:7]=[C:4]([H:12])[H:13])=[O:8])([O:6][C:2](=[C:5]([H:14])[H:15])[H:11])([H:9])[H:10],68.85682999996945
MR_627451_1,[C@:1]([C:2]([N:4]([H:11])[H:12])=[O:9])(/[C:3]([N:6]([H:15])[H:16])=[C:8](/[N:7]([H:17])[H:18])[H:19])([N:5]([H:13])[H:14])[H:10]>>[C:1](=[C:3](/[N:6]([H:15])[H:16])[C@@:8]([C:2]([N:4]([H:11])[H:12])=[O:9])([N:7]([H:17])[H:18])[H:19])(\[N:5]([H:13])[H:14])[H:10],59.26737499999675
MR_175383_0,[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])=[O:9])([C:5]([C:3]([N:6]([H:10])[H:11])=[O:8])=[C:7]([H:17])[H:18])([H:12])[H:13]>>[C:1](=[C:5]([C:3]([N:6]([H:10])[H:11])=[O:8])[C:7]([C:4]([C:2]([H:14])([H:15])[H:16])=[O:9])([H:17])[H:18])([H:12])[H:13],62.189642500002265
MR_102227_0,[C:1]([N:3]([N:4]([C:5]([C:2]([H:13])([H:14])[H:15])=[O:7])[H:9])[O:6][H:8])([H:10])([H:11])[H:12]>>[C:1]([N:3]([O:6][H:8])[O:7]/[C:5]([C:2]([H:13])([H:14])[H:15])=[N:4]/[H:9])([H:10])([H:11])[H:12],66.18744500000318
MR_607612_0,[C:1]1([H:12])([H:13])[C:5]([C:2]([N:6]([H:10])[H:11])([H:14])[H:15])([N:4]([C:3]([H:16])([H:17])[H:18])[H:8])[N:7]1[H:9]>>[C:1]([N:4]([C:3]([H:16])([H:17])[H:18])[H:8])(/[C:5]([C:2]([N:6]([H:10])[H:11])([H:14])[H:15])=[N:7]\[H:9])([H:12])[H:13],67.3257300000185
MR_142249_1,[C:1]([N:5]([N:4]([N:7]=[C:6]([C:2]([H:13])([H:16])[H:17])[C:3]([H:14])([H:15])[H:18])[H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:5]([C:6]([C:2]([H:13])([H:16])[H:17])([C:3]([H:14])([H:15])[H:18])/[N:7]=[N:4]/[H:8])[H:9])([H:10])([H:11])[H:12],65.23364499998578
MR_669887_2,[C:1]([C@@:2]([O:6][O:7][H:9])([O:8][H:10])[H:11])([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[C:5]([H:18])([H:19])[H:20]>>[C:1]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[O:6][C:2]([O:7][H:9])([O:8][H:10])[H:11],51.007592499984185
MR_601042_0,[C:1]([C:4]([H:19])([H:20])[H:21])(/[C:6]([N:5]([C:2]([H:13])([H:14])[H:15])[H:11])=[N:8]/[H:12])=[C:7](\[C:3]([H:16])([H:17])[H:18])[O:9][H:10]>>[C:1]([C:4]([H:19])([H:20])[H:21])(/[C:6]([N:5]([C:2]([H:13])([H:14])[H:15])[H:10])=[N:8]/[H:12])([C:7]([C:3]([H:16])([H:17])[H:18])=[O:9])[H:11],46.058499999995206
MR_82998_0,[N:1](/[C:2](=[C:4](/[N:3]([H:10])[H:11])[H:12])[O:6][H:8])([O:5][H:7])[H:9]>>[N:1](=[C:2](/[C:4]([N:3]([H:10])[H:11])([H:9])[H:12])[O:6][H:8])\[O:5][H:7],52.80412499997837
MR_378759_1,[C:1]([C:2]([H:15])([H:16])[H:17])([N:4]([O:8][H:9])[H:10])(/[C:5]([N:6]([H:12])[H:13])=[C:7](/[C:3]([H:18])([H:19])[H:20])[H:14])[H:11]>>[C:1](\[C:2]([H:15])([H:16])[H:17])(=[C:5](\[N:6]([H:12])[H:13])[C:7]([C:3]([H:18])([H:19])[H:20])([N:4]([O:8][H:9])[H:10])[H:14])[H:11],58.21505750001407
MR_88693_1,[C:1]1([C:3](/[C:4]([N:5]([H:11])[H:12])=[N:8]\[O:7][H:9])([H:15])[H:16])([H:10])[C:2]([H:13])([H:14])[O:6]1>>[C:1]1([C:3](/[C:4]([N:5]([H:11])[H:12])=[N:8]\[O:7][H:9])([H:15])[H:16])([H:10])[C:2]([H:13])([H:14])[O:6]1,66.26148999999458
MR_278479_2,[C:1](/[C:6](=[C:3](\[N:2]([N:4]([H:10])[H:11])[C:5](=[C:7]([H:17])[H:18])[H:12])[O:8][H:9])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:6]([C:3](/[N:2]=[N:4]/[H:11])([C:5](=[C:7]([H:17])[H:18])[H:12])[O:8][H:9])([H:10])[H:13])([H:14])([H:15])[H:16],67.68591500000085
